US09260408B2
[B] 6-[5-((S)-2-Ethylaminomethyl-pyrrolidin-1-yl)-pyridin-3-yl]-1-methyl-3,4-dihydro-1H-quinolin-2-one
In a sealed tube, a solution of 6-[5-((S)-2-chloromethyl-pyrrolidin-1-yl)-pyridin-3-yl]-1-methyl-3,4-dihydro-1H-quinolin-2-one (0.066 g, 0.185 mmol) in CH3CN (2.5 mL) was mixed with K2CO3 (0.064 g, 0.464 mmol), TEA (0.188 g, 1.85 mmol), sodium iodide (0.028 g, 0.185 mmol) and ethanamine hydrochloride (0.151 g, 1.85 mmol). The reaction mixture was then heated to 80° C. over night. The mixture was diluted with EtOAc, poured into aq. NaHCO3 (10 mL) and the aqueous layer was extracted with EtOAc (2×20 mL). Combined organics were washed with brine, dried over Na2SO4, filtered and evaporated to dryness. The residue was purified by silica gel flash chromatography, eluting with a 0 to 15% MeOH(1% NH4OH)-DCM gradient to give the title compound (0.02 g, 30%) as an orange gum. MS: 365.2 (M+H+).

reactant | 6-[5-((S)-2-chloromethyl-pyrrolidin-1-yl)-pyridin-3-yl]-1-methyl-3,4-dihydro-1H-quinolin-2-one | 0.185 mmol, 0.066 g | ClC[C@H]1N(CCC1)C=1C=C(C=NC1)C=1C=C2CCC(N(C2=CC1)C)=O | C20H22ClN3O
reactant | K2CO3 | 0.464 mmol, 0.064 g | C(=O)([O-])[O-].[K+].[K+]
reactant | sodium iodide | 0.185 mmol, 0.028 g | [I-].[Na+]
reactant | ethanamine hydrochloride | 1.85 mmol, 0.151 g | Cl.C(C)N
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | CH3CN | 2.5 mL | CC#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-[5-((S)-2-Ethylaminomethyl-pyrrolidin-1-yl)-pyridin-3-yl]-1-methyl-3,4-dihydro-1H-quinolin-2-one | 0.02 g, 30% | C(C)NC[C@H]1N(CCC1)C=1C=C(C=NC1)C=1C=C2CCC(N(C2=CC1)C)=O | C22H28N4O
